US08859765B2
(1S,2R,4R)-1,2-bis((7,7-dimethyl-2-morpholinobicyclo[2.2.1]heptan-1-yl)methyl)disulfane hydrochloride (IIIb)
To a solution (1S,2R,4R)-1,2-bis((7,7-dimethyl-2-morpholinobicyclo[2.2.1]heptan-1-yl)methyl)disulfane (IIIa) (111 mg, 0.22 mmol) in IPA (1 mL) and n-heptane (2 mL) was added a solution of HCl in IPA (1 mL, 4.9 mmol). The resulting mixture was concentrated in vacuo to give the title product (1S,2R,4R)-1,2-bis((7,7-dimethyl-2-morpholinobicyclo[2.2.1]heptan-1-yl)methyl)disulfane hydrochloride (IIIb) as a white powder.

reactant | (1S,2R,4R)-1,2-bis((7,7-dimethyl-2-morpholinobicyclo[2.2.1]heptan-1-yl)methyl)disulfane | 0.22 mmol, 111 mg | CC1([C@@]2([C@@H](C[C@H]1CC2)N2CCOCC2)CSSCC21C(CC(CC2)C1(C)C)N1CCOCC1)C | C28H48N2O2S2
reactant | HCl | Cl | ClH
solvent | IPA | 1 mL | CC(C)O | C3H8O
solvent | n-heptane | 2 mL | CCCCCCC | C7H16
solvent | IPA | 4.9 mmol, 1 mL | CC(C)O | C3H8O
product | (1S,2R,4R)-1,2-bis((7,7-dimethyl-2-morpholinobicyclo[2.2.1]heptan-1-yl)methyl)disulfane hydrochloride | Cl.CC1([C@@]2([C@@H](C[C@H]1CC2)N2CCOCC2)CSSCC21C(CC(CC2)C1(C)C)N1CCOCC1)C | InChI=1S/C28H48N2O2S2.ClH/c1-25(2)21-5-7-27(25,23(17-21)29-9-13-31-14-10-29)19-33-34-20-28-8-6-22(26(28,3)4)18-24(28)30-11-15-32-16-12-30;/h21-24H,5-20H2,1-4H3;1H/t21-,22?,23-,24?,27-,28?;/m1./s1
